### PR TITLE
shift_rows/sub_bytes commutivity

### LINKED ISSUE #310: Prove that shift_rows and sub_bytes commute
Related to and partially dependent on #294, related to #309 

Once we have specifications for *both* `shift_rows` and `sub_bytes`, we need to prove that the two operations commute, e.g.:
 ```coq
  forall st, shift_rows (sub_bytes st) = sub_bytes (shift_rows st)
```

### PR DESCRIPTION
**Pull request by smore-lore**
Please leave suggestion for how to name 'CommuteProperties.v'. I'm not sure on this, but was imagining we'd have the mix columns/sub bytes commutativity property there as well.

closes #310

### CODE REVIEW

**Comment by satnam6502** [comment]
Thank you! I'll defer to @jadephilipoom for the review (of course review comments from everyone else also welcome as usual).

File: silveroak-opentitan/aes/Spec/CommuteProperties.v [hunk 1]
```diff
@@ -0,0 +1,72 @@
+(* Copyright 2020 The Project Oak Authors                                   *)
```
Comment (jadephilipoom) [inline silveroak-opentitan/aes/Spec/CommuteProperties.v:1]: nit: missing `(******)` line at the top of the banner

File: silveroak-opentitan/aes/Spec/CommuteProperties.v [hunk 2]
```diff
@@ -0,0 +1,72 @@
...
+      rewrite <- IHshift.
+      rewrite sub_byte_shift_row_once_comm.
+      reflexivity.
+    Qed.
+
+    Lemma sub_bytes_shift_rows_start_comm : forall st n,
+      shift_rows_start (sub_bytes st) n =
+      sub_bytes (shift_rows_start st n).
+    Proof.
+      intros st.
```
Comment (jadephilipoom) [inline silveroak-opentitan/aes/Spec/CommuteProperties.v:54]: You don't need the `intros` here; you can do `induction st` straightaway even if the `forall st` is still in the goal. (I'm happy to leave it in.)

**Review by jadephilipoom — APPROVED** [review]
LGTM! `CommuteProperties.v` is a fine name, and I agree the `mix-columns`/`add-round-key` commutativity should go there as well. Thanks for the great work!

File: silveroak-opentitan/aes/Spec/CommuteProperties.v (hunk 1 above)
Comment (smore-lore) [reply silveroak-opentitan/aes/Spec/CommuteProperties.v:2]: done (and adding commit fixing this in other files here)

File: silveroak-opentitan/aes/Spec/CommuteProperties.v (hunk 2 above)
Comment (smore-lore) [reply silveroak-opentitan/aes/Spec/CommuteProperties.v]: done
